US04554279
A. 6-Methoxy-8-nitro-5-(n-octoxy)quinoline
A stirred mixture of 5-hydroxy-6-methoxy-8-nitroquinoline, (6.6 g, 0.03 mole), n-octylbromide (6.7 g, 0.035 mole) and hexamethylphosphoric triamide (10 ml) was maintained at 125°-130°, under N2, while a mixture of triethylamine (1 ml) and propylene oxide (6 ml) was added in small portions during 3 hr. The mixture was cooled and extracted with petroleum ether (bp 20°-40°) (3×100 ml). The extracts were discarded. The petroleum ether-insoluble, semi-solid residue was dissolved in 300 ml of diethyl ether and washed with water, dilute sodium hydroxide and water. The ethereal solution was dried and concentrated in vacuo to leave 8 g of pale brown solid. Crystallization from boiling petroleum ether (20°-40°) (carbon) gave 7.5 g (75%) of the 5-octoxyquinoline derivative, mp 52°-54°. An additional crystallization from petroleum ether did not change the melting point.

reactant | 5-hydroxy-6-methoxy-8-nitroquinoline | 0.03 mole, 6.6 g | OC1=C2C=CC=NC2=C(C=C1OC)[N+](=O)[O-] | C10H8N2O4
reactant | n-octylbromide | 0.035 mole, 6.7 g | C(CCCCCCC)Br | C8H17Br
reactant | hexamethylphosphoric triamide | 10 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | propylene oxide | 6 ml | C1C(C)O1 | C3H6O
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 6-Methoxy-8-nitro-5-(n-octoxy)quinoline | 8 g | COC=1C(=C2C=CC=NC2=C(C1)[N+](=O)[O-])OCCCCCCCC | C18H24N2O4
